*   SRC: /home/tianyf/tmp/guess/comb/t00s/gsoln/xyz.got.s2.apr
*  PROG: APR2NET
*RUN BY: tianyf @ gpsac5 [Linux gpsac5 2.6.32-220.7.1.el6.x86_64 #1 SMP Wed Mar 7 00:52:02 GMT 2012 x86_64 x86_64 x86_64 GNU/Linux]
*RUN AT: linux x86_64
*RUN ON: Fri Apr 13 15:03:59 2012 [UTC]
*****************************************************************************************************************************
* Datum:  WGS84
* Format:  V30
* Transfered from:   /home/tianyf/tmp/guess/comb/t00s/gsoln/xyz.got.s2.apr
* Time:  
* Operator:  
*
*  site    full-name      latitude        longitude         height       u       v       w    epoch       t1        t2
 019B_GPS  site_log  N39 11  8.010157 E139 32 51.625215     45.26855  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 AB53_GPS  site_log  N56 35  5.121725 W132 52  2.088925   1016.21158  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 ABEB_GPS  site_log  N57  8 38.432678 W  2  4 48.787825     53.47899  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 AC79_GPS  site_log  N59 59 52.327329 W147 24 10.964219    287.77172  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ACRA_GPS  site_log  N 5 33 29.111482 W  0 12 10.782431     61.97489  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ARCO_GPS  site_log  S37 12 21.066166 W 73 13 32.414416     28.20966  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ARIT_GPS  site_log  S 5  2 24.524984 E 32 49 31.638992   1204.85531  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BELI_GPS  site_log  N48 45 18.966119 W122 28 44.302654     10.59853  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BIGD_GPS  site_log  N47 55 59.857475 W118 59 19.800466    493.23059  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BILS_GPS  site_log  N47 32 21.640033 W124 15  9.095839     38.37554  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BJCO_GPS  site_log  N 6 23  4.794038 E  2 27  0.080776     30.73573  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BSNC_GPS  site_log  N44 44 22.714165 W112 31 53.354872   2167.16962  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CAPF_GPS  site_log  S66  0 43.457023 W 60 33 30.087249    100.19681  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CAUQ_GPS  site_log  S35 58  6.560442 W 72 20 27.595871    157.35367  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CHCN_GPS  site_log  N44 38 51.759034 W112 42 59.927879   2293.84064  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CHIZ_GPS  site_log  N46  8  0.470102 W  0 24 27.713312    113.20346  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 CHML_GPS  site_log  S37 21 32.872220 W 70  9  0.419412   1250.65073  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CHTI_GPS  site_log  S43 44  7.701929 W176 37  1.621303     75.67370  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CLBD_GPS  site_log  N33  8  7.388668 W117 18 39.514524     20.61041  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CLRK_GPS  site_log  S77 20 24.277753 W141 52 25.718526    999.83432  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CLS6_GPS  site_log  S43 33 56.368432 E172 45 11.804269     75.30424  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CMBL_GPS  site_log  S41 44 56.552571 E174 12 49.697213    256.06668  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CNDN_GPS  site_log  N44 40 41.801306 W112 40 45.366175   1839.19167  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CONG_GPS  site_log  S77 32  4.532676 E167  5  7.726127   3402.83248  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CORM_GPS  site_log  S36 51 55.544961 E175 44 58.409071    170.23685  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CRRL_GPS  site_log  S36  9  9.841494 W 68 21 15.565870   1225.90921  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CWAK_GPS  site_log  N49  9 10.551389 W121 57 13.805796     -0.25038  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DANE_GPS  site_log  N74 18 43.006826 W 20 11 59.374310    177.11170  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DCUT_GPS  site_log  N40 24 45.949524 W111 31 39.246735   1797.28089  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DGAV_GPS  site_log  S 7 16 10.859610 E 72 22 12.871005    -64.93083  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DGJG_GPS  site_log  N71 47 11.519296 W 29 51  0.737038   1494.15851  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DLUZ_GPS  site_log  N33 25 50.113539 W117 18 25.993674    212.73496  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DUAO_GPS  site_log  S34 52 21.683641 W 72  9  9.421779     27.26459  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DUPT_GPS  site_log  S64 48 17.823851 W 62 49  0.841743     43.49429  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 DYNG_GPS  site_log  N38  4 42.791467 E 23 55 56.763376    510.56479  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ENUM_GPS  site_log  N47 12 22.344201 W121 57 20.104743    227.04960  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 EUR2_GPS  site_log  N79 59 20.205511 W 85 56 15.349444     29.01926  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 FALL_GPS  site_log  S85 18 23.099302 W143 37 54.107823    260.20955  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 FEI1_GPS  site_log  N29 32 22.600827 W 98 24 56.283180    228.21139  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 FHOG_GPS  site_log  N34  5 36.767008 W116 56  9.129120   1588.67833  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 FIE0_GPS  site_log  S76  8 40.536580 E168 25 24.695732    153.81334  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 FONP_GPS  site_log  S65 14 43.270988 W 61 38 48.663363     95.44852  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 FRDN_GPS  site_log  N45 56  0.626737 W 66 39 35.573699     94.85448  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G101_GPS  site_log  N43 12 34.290055 E140 51 29.921122     38.36555  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G104_GPS  site_log  N39 56 31.599739 E139 42 12.484886     44.74944  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G123_GPS  site_log  N32  1  2.670903 E130 11 27.837826     39.78259  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GLDB_GPS  site_log  S40 49 35.731546 E172 31 46.424854    302.58686  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GLDR_GPS  site_log  N49 40 53.347339 W126  7 38.395544     -9.34792  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GLS1_GPS  site_log  N66 28 45.956840 W 46 18 37.479766   2148.21115  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GLS3_GPS  site_log  N77 25 54.108725 W 51  6 29.355512   2480.20807  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GMMA_GPS  site_log  N77 48 33.930121 W 19 39  7.619252    521.82547  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GOGA_GPS  site_log  N33 24 53.091513 W 83 28 23.607501    122.53155  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GRNG_GPS  site_log  S39 58 34.504067 E175 27 33.345858    365.82571  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 GRRG_GPS  site_log  N42 56 15.995174 W111 25 17.883245   2198.37089  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HAAS_GPS  site_log  S44  4 23.524209 E168 47  7.983431   1053.52918  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HAHD_GPS  site_log  N47 17 26.882197 W121 47 17.102234    853.98496  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HDIL_GPS  site_log  N40 33 21.189156 W 89 17 38.363042    199.93314  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HDPW_GPS  site_log  N59 38 30.060910 W151 31 52.283280     20.78439  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HMBG_GPS  site_log  N73 40 33.533379 W 28  7 44.649014   1322.92928  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HOWE_GPS  site_log  S87 24 56.358687 W149 25 59.733020   2582.57661  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HUGO_GPS  site_log  S64 57 45.222827 W 65 40  3.145538     20.64082  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 IFR1_GPS  site_log  N33 30 50.156602 W  5  7 31.883391   1708.79722  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 IJMU_GPS  site_log  N52 27 43.110029 E  4 33 21.826622     54.07012  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 IQAL_GPS  site_log  N63 45 21.471116 W 68 30 37.794260     91.71114  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ISCO_GPS  site_log  N 5 32 39.636777 W 87  3 20.990500     10.38705  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 JIME_GPS  site_log  N45 31 23.227885 W122 59 25.903489     53.05015  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 JMEL_GPS  site_log  N18 14  4.950938 W 72 32 10.784440      6.69522  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 JPLV_GPS  site_log  N34 12  5.696667 W118 10 27.479422    372.72050  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KHLR_GPS  site_log  S76  9 16.165573 W120 43 41.037075   1862.93017  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KLHV_GPS  site_log  N31 22 41.028153 E 34 52  0.216583    498.05621  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KLTS_GPS  site_log  N46 38 35.545181 W118 33 29.409442    257.24440  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KOD5_GPS  site_log  N57 37  3.690850 W152 11 36.350766     27.25197  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KOD6_GPS  site_log  N57 37  3.331303 W152 11 37.978881     27.24231  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KOKV_GPS  site_log  N22  7 34.554084 W159 39 53.755732   1167.36557  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LBIB_GPS  site_log  N75 53 37.708842 W 23 51 10.590904   1483.50014  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LCDT_GPS  site_log  N42 17 42.195084 W 87 57 37.237112    189.37397  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LEBA_GPS  site_log  N39 25 49.816656 W 84 16 59.310361    224.25055  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LIA1_GPS  site_log  N48 15 52.733579 W 94 41 28.516554    336.59344  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 LIA2_GPS  site_log  N48 15 53.475003 W 94 41 28.698437    336.62834  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 LIA3_GPS  site_log  N48 15 53.415490 W 94 41 27.845461    336.69727  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 LLRG_GPS  site_log  N43 43 21.129210 W112 56  0.570257   1458.46029  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LMHS_GPS  site_log  S37  1 26.733043 W 70 45  6.375390   1268.84271  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LMMF_GPS  site_log  N14 35 41.340142 W 60 59 46.235232    -27.11763  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 LTHW_GPS  site_log  S76 27 29.920209 W107 46 54.974837   1011.56433  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 MAYZ_GPS  site_log  N18 13  3.309248 W 67  9 31.922127    -38.61257  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MCES_GPS  site_log  N59 44 45.876233 W151 15 28.195298    430.60974  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MFP0_GPS  site_log  N39 56 58.576755 W105 11 39.856244   1728.76128  0.0000  0.0000  0.0000 2012.0290 1900.0000 2500.0000
 MHDL_GPS  site_log  N37 50 32.361601 W122 29 39.604975     65.88010  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MIK2_GPS  site_log  N68  8 25.008273 W 31 27  6.556230    815.77421  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MKAI_GPS  site_log  N19 21 20.093223 W155 10 32.153240    892.98152  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MMAU_GPS  site_log  N19 22 25.856561 W155 10 40.998673    949.61213  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MNRC_GPS  site_log  N38 52 43.417506 W122 26 34.084654    707.80956  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MOBK_GPS  site_log  N55  6 53.578756 E 36 34 10.977234    182.66049  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MOIU_GPS  site_log  N 0 17 17.953968 E 35 17 24.037776   2201.52395  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MOUT_GPS  site_log  N41  2 46.384532 W111 39 56.145273   1609.80706  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MOZI_GPS  site_log  N36 27 19.871677 E 25 25 19.723463    353.63452  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NEWL_GPS  site_log  N50  6 10.909112 W  5 32 34.032253     64.51896  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NIHU_GPS  site_log  S36 23 40.598250 W 72 23 50.317610    112.88357  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NPRG_GPS  site_log  N43 35 49.893968 W112 49 40.533660   1500.80615  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NTZ1_GPS  site_log  N53 19 46.990198 E 13  4 21.464423    117.06856  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NZRT_GPS  site_log  N32 46 56.988999 E 35 19 53.211186    411.68687  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 OLMP_GPS  site_log  N47  2 41.448854 W122 53 42.787340      2.63365  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ORID_GPS  site_log  N41  7 38.324413 E 20 47 38.588144    773.01453  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 OYLR_GPS  site_log  N47 28 28.667130 W122 12 17.172064     24.69906  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P024_GPS  site_log  N47 33 43.926685 W115 50 32.766005   1907.62453  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P792_GPS  site_log  N46 14 40.638386 W122  8 12.807926   1256.88664  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P793_GPS  site_log  N40 28 43.511991 W123 34 23.270688    709.87849  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P797_GPS  site_log  N33 32 14.254053 W116 35 33.095419   1403.79176  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P799_GPS  site_log  N33 55 39.532415 W118 18 22.860684     24.83938  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PBAY_GPS  site_log  N59 34 21.745647 W151 16 20.056991     17.46469  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PG2R_GPS  site_log  N19 19 23.509384 W155 11 39.120938    722.78566  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PKMN_GPS  site_log  N36 23 46.129934 E 25 23  4.481194    134.34865  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 QAAR_GPS  site_log  N70 44 25.460563 W 52 41 18.147292     53.05056  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 REGI_GPS  site_log  N39 27 12.494482 E 16  9 35.681411    387.95659  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RGAO_GPS  site_log  S34 14 44.018552 W 69 22 47.221801   2341.49813  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RIBA_GPS  site_log  N36 27 17.930995 E 25 20 36.827653     41.93167  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RMLS_GPS  site_log  S39 43 21.371191 W 70 41 12.206667    852.33079  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 ROBI_GPS  site_log  S65 14 47.400135 W 59 26 40.675840     57.89560  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ROTH_GPS  site_log  S67 34 16.997471 W 68  7 32.789562     39.70664  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SA60_GPS  site_log  N39 58 41.354755 W105 16 31.401752   1871.13345  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SA62_GPS  site_log  N40 35 15.988846 W105  8 51.301590   1595.47444  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SA63_GPS  site_log  N32 41 20.049486 W114 29 44.610280     45.58990  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 SBOK_GPS  site_log  S29 40  9.567180 E 17 52 45.162423   1043.09178  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 SBRB_GPS  site_log  N37 41 11.216729 W122 24 39.041884    -13.21514  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SCOA_GPS  site_log  N43 23 42.848935 W  1 40 54.036898     59.44850  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 SDLY_GPS  site_log  S77  8  7.125836 W125 58 28.475449   2097.30316  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SEAI_GPS  site_log  N47 41 13.217507 W122 15 22.689252     -3.92263  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 SG01_GPS  site_log  N36 36 14.908100 W 97 29  5.335383    289.99950  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 SHPM_GPS  site_log  N45  5 56.596573 W111 51 43.223775   2592.02018  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SKE0_GPS  site_log  N64 52 45.114014 E 21  2 53.854551     81.35809  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SMM1_GPS  site_log  N72 34 46.423230 W 38 21  7.354614   3258.10315  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SRJV_GPS  site_log  N43 52  4.274305 E 18 24 50.025780    645.78685  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SSHO_GPS  site_log  N47 40 56.278184 W122 18 54.596320     74.19045  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 STAY_GPS  site_log  N44 49 50.546534 W122 49 15.095489    110.86636  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 STEA_GPS  site_log  N39 37 31.954919 W119 53  1.228630   1534.22259  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 STJ2_GPS  site_log  N47 35 42.837077 W 52 40 41.903074    152.61027  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SUTV_GPS  site_log  S32 22 48.753443 E 20 48 37.669990   1799.76367  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TAKP_GPS  site_log  S40  3 41.619275 E175 57 46.507318    698.83039  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TERS_GPS  site_log  N53 21 45.862689 E  5 13  9.807473     56.10220  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TETN_GPS  site_log  N35 33 41.921990 W  5 21 46.842287     63.72637  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 THIO_GPS  site_log  S21 36 30.893880 E166 12 55.340522    107.01793  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 THUR_GPS  site_log  S72 31 48.236287 W 97 33 34.568807    212.80839  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TIXG_GPS  site_log  N71 38  4.102262 E128 51 59.125445     47.06376  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TMCO_GPS  site_log  S38 45 53.169447 W 72 36 49.412211    137.28384  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TOR2_GPS  site_log  N58 15 53.076577 E 26 27 41.719174     96.26269  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TRNG_GPS  site_log  S37 43 43.708667 E176 15 39.159420    151.10233  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TTTA_GPS  site_log  S22  0 41.459016 E166 13  0.809272     81.64466  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 TURI_GPS  site_log  S40 15 53.937633 E176 22 57.210195    538.19397  0.0000  0.0000  0.0000 2012.0290 1900.0000 2500.0000
 TXC1_GPS  site_log  N31 48 49.288203 W 94  9 36.943402     69.45273  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 UACO_GPS  site_log  S20 50 10.615188 E164 28 11.718685     88.84751  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 UCSF_GPS  site_log  N37 45 46.685483 W122 27 29.346497    154.61700  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 UDEC_GPS  site_log  S37 28 20.283850 W 72 20 41.237884    178.19637  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ULDI_GPS  site_log  S28 17 35.220872 E 31 25 15.329529    607.95203  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 UNAC_GPS  site_log  N40  3 40.344662 W105 12 20.067589   1571.58398  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 UNPM_GPS  site_log  N20 52  6.609260 W 86 52  5.428546     -0.45471  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 URIL_GPS  site_log  N41 29 20.191745 W 71 31 39.791049     44.43030  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 URUS_GPS  site_log  S17 57 10.081314 W 67  6 51.796715   3767.29611  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 UTHW_GPS  site_log  S77 34 52.748096 W109  2 34.149207   1303.18857  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 VA02_GPS  site_log  N37 56 25.853422 W 77 59 10.000616     63.13266  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VERA_GPS  site_log  N10 51 13.028496 W 84 52  8.547519     64.31179  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VFDG_GPS  site_log  N70 17 59.722108 W 29 49  3.504461   1293.51579  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VGFW_GPS  site_log  S39 15 18.537761 E175 33  9.676491   2051.06641  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VGOB_GPS  site_log  S39 11 59.404835 E175 32 32.065063   1161.21640  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VGWN_GPS  site_log  S39 19 36.958054 E175 35 52.247415   1563.60423  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VLIS_GPS  site_log  N51 26 34.364446 E  3 35 50.387216     54.40589  0.0000  0.0000  0.0000 2012.0330 1900.0000 2500.0000
 VNAD_GPS  site_log  S65 14 45.617912 W 64 15 14.982614     20.99988  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VOIL_GPS  site_log  N18 31 43.240822 W 72 18 30.978535    240.57035  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 VOZN_GPS  site_log  N59 48 30.421371 W151  7 30.690304    401.87354  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WAI2_GPS  site_log  S79 28  3.494994 W112  3 13.387797   1766.07781  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WAIM_GPS  site_log  S44 39 20.525047 E170 55 13.070897   1044.85529  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WAKA_GPS  site_log  S43 35  2.528224 E169 53  7.111572   1409.25376  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WANG_GPS  site_log  S39 47 12.756223 E174 49 17.207640    289.67635  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WDCB_GPS  site_log  N40 34 48.360255 W122 32 26.342367    259.64842  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WESG_GPS  site_log  S41 44 41.071388 E171 48 22.400662    665.35366  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WHNG_GPS  site_log  S35 48 13.561148 E174 18 52.441884    172.78027  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WHVR_GPS  site_log  S39 43 48.352241 E175 27  6.270794    690.06669  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WIKR_GPS  site_log  N63 33  9.819175 W150 55 19.965087   1188.75731  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 WPRG_GPS  site_log  N44 37 44.798413 W112 44 51.228169   2742.32570  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YAR3_GPS  site_log  S29  2 47.370604 E115 20 49.754494    242.44716  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YATE_GPS  site_log  S22  9 34.373631 E166 56 39.741730     81.38309  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YCBA_GPS  site_log  S22  1  1.569833 W 63 40 47.945042    659.67909  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YEL2_GPS  site_log  N62 28 52.756060 W114 28 51.047404    181.02595  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YMER_GPS  site_log  N77 25 58.420793 W 24 19 34.772756   1070.07927  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YMTS_GPS  site_log  N43 47 54.644810 W 70 11 20.310310     12.89854  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 YOSH_GPS  site_log  N32  6 13.804755 E 35 12 34.819854    714.42807  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
